US04242518
A solution of 0.27 part of 3-(2',6'-dichloro-anilino)-4-cyanodihydrothiophene in 15 parts by volume of dry methylene chloride is added, in the course of 30 minutes, to a solution of 0.12 part by volume of sulfuryl chloride in 15 parts by volume of dry methylene chloride at 0° C. The end product is isolated from the reaction mixture by the method described in Example 1c. 0.20 (75% of theory) of 3-(2',6'-dichloroanilino)-4-cyanothiophene of melting point 105°-108° C. are obtained.

reactant | 3-(2',6'-dichloro-anilino)-4-cyanodihydrothiophene | ClC1=C(NC2CSC=C2C#N)C(=CC=C1)Cl | C11H8Cl2N2S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-(2',6'-dichloroanilino)-4-cyanothiophene | 75% | ClC1=C(NC2=CSC=C2C#N)C(=CC=C1)Cl | C11H6Cl2N2S
